US08633173B2
262 b) 2-{2-[4-(4-Methyl-piperazin-1-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-yloxymethyl}benzonitrile was prepared from 2-(2-amino-[1,2,4]triazolo[1,5-a]pyridin-8-yloxymethyl)-benzonitrile (115.0 mg, 0.434 mmol) and 1-(4-bromo-phenyl)-4-methyl-piperazine (128 mg, 0.500 mmol) in a manner analogous to Example 2d. Product was isolated as a pale orange solid (0.101 g, 53%). MP=156-157° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.32 (s, 1H), 8.40 (d, J=6.5 Hz, 1H), 7.93 (d, J=7.8 Hz, 1H), 7.80 (d, J=4.5 Hz, 2H), 7.62-7.60 (m, 1H), 7.50 (d, J=8.9 Hz, 1H), 7.17 (d, J=8.5 Hz, 1H), 6.98-6.88 (m, 3H), 5.49 (s, 2H), 3.04-3.02 (m, 4H), 2.47-2.44 (m, 4H), 2.22 (s, 3H). MS=440 (MH)+.

reactant | 2-(2-amino-[1,2,4]triazolo[1,5-a]pyridin-8-yloxymethyl)-benzonitrile | 0.434 mmol, 115.0 mg | NC1=NN2C(C(=CC=C2)OCC2=C(C#N)C=CC=C2)=N1 | C14H11N5O
reactant | 1-(4-bromo-phenyl)-4-methyl-piperazine | 0.500 mmol, 128 mg | BrC1=CC=C(C=C1)N1CCN(CC1)C | C11H15BrN2
product | 2-{2-[4-(4-Methyl-piperazin-1-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-yloxymethyl}benzonitrile | CN1CCN(CC1)C1=CC=C(C=C1)NC1=NN2C(C(=CC=C2)OCC2=C(C#N)C=CC=C2)=N1 | C25H25N7O
